US07553836B2
Step A. Preparation of 4-Bromo-N-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-1H-pyrrole-2-carboxamide
To a solution of 4-bromo-1H-pyrrole-2-carboxylic acid (1.00 g, 5.30 mmol), preparation described in step A of Example 2, and 1-(4-amino-2-methoxyphenoxy)-2-methylpropan-2-ol (1.12 g, 5.30 mmol), preparation described in step A of Example 4. in dichloroethane (46.0 mL) was added EDC (2.03 g, 10.6 mmol) and HOBT (1.62 g, 10.6 mmol) and the reaction was allowed to stir at rt for 16 h. The reaction mixture was diluted with EtOAc (100 mL), washed with sat. NaHCO3 (3×100 mL), water, brine, dried over anhydrous Na2SO4 and concentrated to give 1.84 g of the title compound as a brown oil which was used in the next step without purification: HPLC a) column: Phenomenex Luna 5μ 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% H3PO4 to 90% MeOH/10% H2O/0.1% H3PO4; 1 min hold, 4 mL/min UV detection at 220 nm, 3.058 min retention time, (91%); HPLC b) column: Phenomenex Luna C18 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% TFA to 90% MeOH/10% H2O/0.1% TFA, 1 min hold; 4 mL/min, UV detection at 220 nm, 3.051 min retention time; MS (ES) 385 [M+H]+.

reactant | 4-bromo-1H-pyrrole-2-carboxylic acid | 5.30 mmol, 1.00 g | BrC=1C=C(NC1)C(=O)O | C5H4BrNO2
reactant | 1-(4-amino-2-methoxyphenoxy)-2-methylpropan-2-ol | 5.30 mmol, 1.12 g | NC1=CC(=C(OCC(C)(O)C)C=C1)OC | C11H17NO3
reactant | EDC | 10.6 mmol, 2.03 g
reactant | HOBT | 10.6 mmol, 1.62 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloroethane | 46.0 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-Bromo-N-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-1H-pyrrole-2-carboxamide | 1.84 g | BrC=1C=C(NC1)C(=O)NC1=CC(=C(C=C1)OCC(C)(C)O)OC | C16H19BrN2O4
